US07795315B2
(2-Amino-phenyl)-carbamic acid tert-butyl ester
To a solution of o-phenylenediamine (54.0 g, 0.500 mol) in THF (500 mL) was added (Boc)2O (109 g, 0.500 mol) in THF (150 mL) dropwise, and the mixture was stirred at room temperature overnight. After concentration under vacuum, the residue was diluted with ethyl acetate/petroleum ether=1/4 (v/v) (150 mL) and the precipitate was collected. The mother liquor was concentrated and the crude product was recrystallized with ethyl acetate/petroleum ether=1/4 (v/v). The combined solids were dried in vacuo at 40 degrees Celcius for 4 hours. An off-white solid (80 g, 77%) was obtained. MS: calc'd 209 (MH+), exp 209 (MH+). 1H NMR (CDCl3, 400 MHz) δ 7.25 (m, 1H), 7.00 (m, 1H), 6.77 (m, 2H), 6.29 (broad m, 1H), 3.60 (broad m, 2H), 1.51 (s, 9H).

reactant | o-phenylenediamine | 0.500 mol, 54.0 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | (Boc)2O | 0.500 mol, 109 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2-Amino-phenyl)-carbamic acid tert-butyl ester | 80 g, 77% | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
